US07338959B2
2-(4-{4-[(2-Benzylamino-1-ethyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-phenyl)-ethanesulfonic acid methylamide hydrochloride
The title compound was prepared following the procedure of example two with N2-Benzyl-N5-(2-chloro-pyrimidin-4-yl)-1-ethyl-N5-methyl-1H-benzoimidazole-2,5-diamine (98 mg, 0.25 mmol) and 2-(4-amino-phenyl)-ethanesulfonic acid methylamide (54 mg, 0.25 mmol) as a white solid (74 mg, 49%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.04 (s, 1H), 7.75 (d, J=6.0 Hz, 1H), 7.69 (d, J=8.4 Hz, 2H), 7.23-7.42 (m, 7H), 7.07-7.12 (m, 3H), 6.94 (q, J=5.1 Hz, 1H), 6.83 (dd, J=8.4 and 2.1 Hz, 1H), 5.63 (d, J=5.7 Hz, 1H), 4.61 (d, J=5.7 Hz, 2H), 4.11 (q, J=6.9 Hz, 2H), 3.41 (s, 3H), 3.32 (s, 3H), 3.20-3.25 (M, 2H), 2.83-2.88 (M, 2H), 2.59 (d, J=4.8 Hz, 3H), 1.26 (t, J=6.9 Hz, 3H). MS (ESI) m/z=571 [M+H]+.

reactant | N2-Benzyl-N5-(2-chloro-pyrimidin-4-yl)-1-ethyl-N5-methyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 98 mg | C(C1=CC=CC=C1)NC1=NC2=C(N1CC)C=CC(=C2)N(C)C2=NC(=NC=C2)Cl | C21H21ClN6
reactant | 2-(4-amino-phenyl)-ethanesulfonic acid methylamide | 0.25 mmol, 54 mg | CNS(=O)(=O)CCC1=CC=C(C=C1)N | C9H14N2O2S
product | 2-(4-{4-[(2-Benzylamino-1-ethyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-phenyl)-ethanesulfonic acid methylamide hydrochloride | Cl.CNS(=O)(=O)CCC1=CC=C(C=C1)NC1=NC=CC(=N1)N(C)C1=CC2=C(N(C(=N2)NCC2=CC=CC=C2)CC)C=C1 | InChI=1S/C30H34N8O2S.ClH/c1-4-38-27-15-14-25(20-26(27)35-30(38)33-21-23-8-6-5-7-9-23)37(3)28-16-18-32-29(36-28)34-24-12-10-22(11-13-24)17-19-41(39,40)31-2;/h5-16,18,20,31H,4,17,19,21H2,1-3H3,(H,33,35)(H,32,34,36);1H
